US08030500B2
1-(3′-Chlorobiphenyl-3-yl)-4-fluoro-1-(pyridin-4-yl)-1H-isoindol-3-amine
The title compound was synthesized as described for Example 1 in 38% yield, starting from 1-(3-bromophenyl)-4-fluoro-1-(pyridin-4-yl)-1H-isoindol-3-amine (80 mg, 0.21 mmol) and 3-chlorophenylboronic acid (39.3 mg, 0.25 mmol).

reactant | 1-(3-bromophenyl)-4-fluoro-1-(pyridin-4-yl)-1H-isoindol-3-amine | 0.21 mmol, 80 mg | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC=NC=C1 | C19H13BrFN3
reactant | 3-chlorophenylboronic acid | 0.25 mmol, 39.3 mg | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 1-(3′-Chlorobiphenyl-3-yl)-4-fluoro-1-(pyridin-4-yl)-1H-isoindol-3-amine | 38% yield | ClC=1C=C(C=CC1)C1=CC(=CC=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC=NC=C1 | C25H17ClFN3
